US08703805B2
Into a 100 mL flask was weighed 5.18 g (13.8 mmol) of 4,4,4-Trifluoro-1-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-butane-1,3-dione, 50 mL of toluene, and 450 μL (14.3 mmol) of hydrazine. The resulting solution was heated at 100° C. for 21 h. The reaction was then concentrated in vacuo and was partially purified by silica gel flash chromatography (Jones Flashmaster, 70 g SiO2, gradient elution from 100% hexanes to 20% ethyl acetate over 30 minutes. Appropriate fractions were combined, concentrated in vacuo, and were precipitated from ethyl acetate with hexanes to afford the intermediate 3-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-5-trifluoromethyl-1H-pyrazole as a faintly yellow, semi-crystalline solid, yield: 1.24 g (24%). 1H NMR (400 MHz, CDCl3): δ 8.15 (s, 1H), 7.86 (d, J=8 Hz, 2H), 7.62 (t, J=8 Hz, 1H), 7.45 (d, J=4 Hz, 1H), 7.39 (d, J=4 Hz, 1H), 6.70 (s, 1H), 3.12 (s, 3H); MS (ES): 373 [M+H]+.

reactant | 4,4,4-Trifluoro-1-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-butane-1,3-dione | 13.8 mmol, 5.18 g | FC(C(CC(=O)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)=O)(F)F | C15H11F3O4S2
reactant | hydrazine | 14.3 mmol, 450 μL | NN | H4N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-5-trifluoromethyl-1H-pyrazole | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=NNC(=C1)C(F)(F)F | C15H11F3N2O2S2
